US07132425B2
A mixture of methyl 5-chloropyrazine-2-carboxylate (1.7 g, 10 mmol) and allyl alcohol (10 mL, 147 mmol) was heated with stirring to 95° C. and then treated with pulverized potassium hydroxide (1.3 g, 23 mmol). Within 10 min, a thick paste developed. The heating was continued for 2 h. The reaction mixture was concentrated in vacuo to dryness, and the residue was further concentrated in vacuo to dryness from toluene (2×50 mL). The 5-allyloxy-pyrazine-2-carboxylic acid potassium salt (2.2 g) that was isolated was used without further purification and characterization.

reactant | methyl 5-chloropyrazine-2-carboxylate | 10 mmol, 1.7 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | allyl alcohol | 147 mmol, 10 mL | C(C=C)O | C3H6O
reactant | potassium hydroxide | 23 mmol, 1.3 g | [OH-].[K+]
product | 5-allyloxy-pyrazine-2-carboxylic acid potassium salt | 2.2 g | [K+].C(C=C)OC=1N=CC(=NC1)C(=O)[O-] | InChI=1S/C8H8N2O3.K/c1-2-3-13-7-5-9-6(4-10-7)8(11)12;/h2,4-5H,1,3H2,(H,11,12);/q;+1/p-1
